US05514643
Synthesis of 2-allylamino-4-ethyl-thiazole-5-carboxylic acid (cyano-thiophen-2-yl-methyl)-amide (43)
1.0g of 2-bromo-4-ethyl-thiazole-5-carboxylic acid (cyano-thiophen-2-yl-methyl)-amide, 0.40ml of triethylamine and 0.66ml of allylamine were added to 10ml of tetrahydrofuran. The reaction mixture was stirred under reflux for 12 hours and then treated according to the same procedure as EXAMPLE 10 to obtain 0.57g (Yield 61%) of the title compound.

reactant | 2-bromo-4-ethyl-thiazole-5-carboxylic acid (cyano-thiophen-2-yl-methyl)-amide | 1.0g | C(#N)C(C=1SC=CC1)NC(=O)C1=C(N=C(S1)Br)CC | C12H10BrN3OS2
reactant | triethylamine | 0.40ml | C(C)N(CC)CC | C6H15N
reactant | allylamine | 0.66ml | C(C=C)N | C3H7N
solvent | tetrahydrofuran | 10ml | O1CCCC1 | C4H8O
product | 2-allylamino-4-ethyl-thiazole-5-carboxylic acid (cyano-thiophen-2-yl-methyl)-amide | 0.57g, Yield 61% | C(#N)C(C=1SC=CC1)NC(=O)C1=C(N=C(S1)NCC=C)CC | C15H16N4OS2
